US05914426
An autoclave is charged with 212.5 g (1.80 mol) of succinic acid and 166.8 g (2.25 mol) of tert-butanol and then 808 g (14.40 mol) of isobutene are forced in at 263 K jacket temperature. After the addition is complete, 108.1 g (1.08 mol) of 98% sulfuric acid are pumped in over 70 minutes at a temperature of 268 to 275 K in the vessel. The reaction mixture is then stirred for 30 minutes at a temperature of 275 to 278 K in the vessel and, after increasing the temperature to 293 to 295 K, it is stirred for another 14 hours at that temperature and at a pressure from (4×105) to (5×105) Pa. The reaction mixture is then forced into an agitated mixture consisting of 1000 g of ice and 300 ml (3 mol) of 30% sodium hydroxide solution and the autoclave is then flushed with 200-300 ml of petroleum ether which is also added to the mixture of ice/sodium hydroxide solution. The mixture is warmed to room temperature and the organic phase is separated. The aqueous phase is extracted 3 times with 100-150 ml of petroleum ether each and the organic phases are then combined. The organic phases are concentrated in a rotary evaporator at a bath temperature of 323 K and (3×103) Pa (final value). To purify the crude product it is fractionally distilled, with addition of about 0.5 g of magnesium oxide, via a 30 cm packed column (Raschig rings 5×5 mm) under vacuum. The ester content of the individual fractions is determined by gas chromatography. Fractions having ester contents of <97% by weight are distilled again. After a total of 3 distillations, 329.3 g (79.4% of theory) of di-tert-butyl succinate are obtained having a 97.2% purity (percent per area), determined by gas chromatography, corresponding to 7.2% of theory a 100%.

reactant | succinic acid | 1.80 mol, 212.5 g | C(CCC(=O)O)(=O)O | C4H6O4
reactant | tert-butanol | 2.25 mol, 166.8 g | C(C)(C)(C)O | C4H10O
reactant | isobutene | 14.40 mol, 808 g | C=C(C)C | C4H8
reactant | sulfuric acid | 1.08 mol, 108.1 g | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | 3 mol, 300 ml | [OH-].[Na+]
product | di-tert-butyl succinate | 329.3 g, 79.4% | C(CCC(=O)OC(C)(C)C)(=O)OC(C)(C)C | C12H22O4
